US04629795
Referring to the problem (i), the present inventors have used safer and less expensive alkali metal hydroxide instead of sodium hydride; and they also found that dimethylamine resulting from the decomposition of DMF sometimes reacts with 4-chlorobenzyl bromide to give (4-chlorobenzyl)dimethylamine as a by-product and that a solvent containing dimethylsulfoxide can be used in place of DMF for avoiding the production of the (4-chlorobenzyl)dimethylamine to afford the vinyl imidazole derivatives (I) in high yield.

reactant | dimethylamine | CNC | C2H7N
reactant | 4-chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-chlorobenzyl)dimethylamine | ClC1=CC=C(CN(C)C)C=C1 | C9H12ClN
